US04175203
Step A-4: Preparation of 4-Acetoxy-5-propoxy-1-pentanol Tosylate
A solution of p-toluenesulfonyl chloride (42.0 g., 0.22 mole) in pyridine (100 ml.) is cooled in an ice bath while 4-acetoxy-5-propoxy-1-pentanol (36.8 g., 0.193 mole) is added dropwise with stirring during 40 minutes. The ice bath is replaced by a cool (20° C.) water bath and stirring is continued for 2 hours. The mixture is then poured into 500 ml. of water. The oily product is taken up in ether, washed with 2 N hydrochloric acid and water, and dried over sodium sulfate. The solvent is distilled in vacuo to leave the crude title compound as a yellow oil.

reactant | p-toluenesulfonyl chloride | 0.22 mole, 42.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-acetoxy-5-propoxy-1-pentanol | 0.193 mole, 36.8 g | C(C)(=O)OC(CCCO)COCCC | C10H20O4
reactant | water | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 4-Acetoxy-5-propoxy-1-pentanol Tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCC(COCCC)OC(C)=O | C17H26O6S
